US08378095B2
A solution of 2-(dicyclohexylphosphino)biphenyl (0.287 g, 0.819 mmol), bis(pinacolato)diboron (0.915 g, 3.60 mmol), Acetic acid potassium salt (0.965 g, 9.83 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.030 g, 0.032 mmol) and 4-chloro-1H-pyrrolo[2,3-b]pyridine (0.500 g, 3.28 mmol) in dioxane (10 ml) was degassed, placed under a nitrogen atmosphere and heated under reflux for 3 hours. The solvent was removed in vacuo. The residue was taken up in MeOH and loaded onto a MP-TsOH cartridge (2500 mg). The cartridge was washed with MeOH then with 2M ammonia in MeOH and the solvent reduced in vacuo to afford 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.394 g, 1.62 mmol, 48%) of a brown solid. LCMS (2) Rt: 1.39 min; m/z (ES+) 245.

reactant | 2-(dicyclohexylphosphino)biphenyl | 0.819 mmol, 0.287 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | bis(pinacolato)diboron | 3.60 mmol, 0.915 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Acetic acid potassium salt | 9.83 mmol, 0.965 g | [K+].C(C)(=O)[O-]
reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 3.28 mmol, 0.500 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.032 mmol, 0.030 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 1.62 mmol, 0.394 g, 48% | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)NC=C2)C | C13H17BN2O2
